US07189741B2
C. Preparation of 2-[4-(1-furan-2-ylmethyl-5-methoxy-1H-indol-3-yl)-piperidin-1-ylmethyl]-4-methoxy-benzoic acid
This compound was prepared following the procedure described in example 13 (part D) starting with 0.05 g (0.17 mmol) of 1-furan-2-ylmethyl-5-methoxy-3-piperidin-4-yl-1H-indole and 0.057 g (0.22 mmol) of 2-bromomethyl-4-methoxy-benzoic acid methyl ester. After standard work-up and purification by chromatography using a C18 column, 0.029 g (36% of yield) of the expected acid were obtained.

reactant | 1-furan-2-ylmethyl-5-methoxy-3-piperidin-4-yl-1H-indole | 0.17 mmol, 0.05 g | O1C(=CC=C1)CN1C=C(C2=CC(=CC=C12)OC)C1CCNCC1 | C19H22N2O2
reactant | 2-bromomethyl-4-methoxy-benzoic acid methyl ester | 0.22 mmol, 0.057 g | COC(C1=C(C=C(C=C1)OC)CBr)=O | C10H11BrO3
product | 2-[4-(1-furan-2-ylmethyl-5-methoxy-1H-indol-3-yl)-piperidin-1-ylmethyl]-4-methoxy-benzoic acid | O1C(=CC=C1)CN1C=C(C2=CC(=CC=C12)OC)C1CCN(CC1)CC1=C(C(=O)O)C=CC(=C1)OC | C28H30N2O5
